US05455258
Ethyl 2-[[4-methoxybenzenesulfonyl](4-methoxybenzyl)amino]acetate (0.90 g, 2.3 mmol) is dissolved in methanol (20 mL). To this solution is added hydroxylamine hydrochloride (0.80 g, 11.5 mmol), followed by the addition of sodium methoxide (5.2 mL of a 2.67M solution). The reaction is stirred overnight at room temperature. The reaction is worked up by partitioning between dilute hydrochloric acid (pH=~3) and ethyl acetate. The aqueous phase is extracted well with ethyl acetate, the combined organic layers are washed with brine, dried (Na2SO4), and the solvent is evaporated. The product is recrystallized from ether/ethyl acetate to give N-hydroxy-2-[[4-methoxybenzenesulfonyl](4-methoxybenzyl)amino]acetamide, m.p. 134°-135.5° C.

reactant | Ethyl 2-[[4-methoxybenzenesulfonyl](4-methoxybenzyl)amino]acetate | 2.3 mmol, 0.90 g | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)OCC)CC1=CC=C(C=C1)OC | C19H23NO6S
reactant | hydroxylamine hydrochloride | 11.5 mmol, 0.80 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | N-hydroxy-2-[[4-methoxybenzenesulfonyl](4-methoxybenzyl)amino]acetamide | ONC(CN(CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C17H20N2O6S
